US04596819
A solution of (±)-2-bromo-4-methyl-pentanoyl chloride, 21 g (0.099 mol), in 25 ml of acetone is added dropwise with stirring to a solution of 10 g (0.099 mol) of L-prolinol and 16.2 g (0.197 mol) of sodium acetate in a mixture of 150 ml of acetone and 75 ml of water at 0°-5° C. The mixture is stirred and allowed to reach room temperature over two hours, the solvent is evaporated in vacuo and the residue is suspended in 300 ml of chloroform and washed with water, 2×300 ml. The chloroform layer is separated, dried over sodium sulfate, evaporated in vacuo, and the residue is purified by chromatography using silica gel and eluting with dichloromethane-methanol (95:5) to give (2S)-1-(2-bromo-4-methyl-1-oxopentyl)2-pyrrolidinemethanol (2 position on side chain is R,S mixture), 21 g; mp 79°-82°; [α]D25 -54.0° (c 0.6, methanol).

reactant | (±)-2-bromo-4-methyl-pentanoyl chloride | BrC(C(=O)Cl)CC(C)C | C6H10BrClO
reactant | L-prolinol | 0.099 mol, 10 g | N1[C@H](CO)CCC1 | C5H11NO
reactant | sodium acetate | 0.197 mol, 16.2 g | C(C)(=O)[O-].[Na+]
solvent | acetone | 25 ml | CC(=O)C | C3H6O
solvent | acetone | 150 ml | CC(=O)C | C3H6O
solvent | water | 75 ml | O | H2O
product | (2S)-1-(2-bromo-4-methyl-1-oxopentyl)2-pyrrolidinemethanol | BrC(C(=O)N1[C@@H](CCC1)CO)CC(C)C | C11H20BrNO2
